
* Author: FOSSEE
* Date:

r1  in out 1k
c1  out gnd 10u
v1  in gnd pwl(0m 0 0.5m 5 50m 5 50.5m 0 100m 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 100e-03 0e-03

* Control Statements
.control
run
print all > data.txt
.endc
.end
